US07557121B2
Preparation 22: N-(4-Iodopyridin-3-yl)-2,2-dimethylpropanamide
A solution of 2,2-dimethyl-N-pyridin-3-ylpropanamide [(1 g, 5.61 mmol), J. Org. Chem, 48(20), 3401;1998]in tetrahydrofuran (10 mL) and diethyl ether (30 mL) was cooled to −78° C. and TMEDA (2.1 mL, 14 mmol) and nbutyl lithium (1.6M in hexane, 8.8 mL, 14 mmol,) were added dropwise. The mixture was stirred for 15 minutes and was then warmed to −10° C. and stirred for a further 2 hours. The reaction mixture was again cooled to −78° C. and a solution of iodine (3.56 g, 14 mmol) in tetrahydrofuran (10 mL) was added dropwise. The resulting slurry was stirred at −78° C. for 2 hours. The mixture was warmed to 0° C. and was quenched with saturated aqueous sodium thiosulfate solution (50 mL). The phases were separated and the aqueous phase was extracted with dichloromethane (2×30 mL). The combined organic phase was dried over magnesium sulfate and concentrated in vacuo. Purification of the residue by column chromatography on silica gel, eluting with pentane:ethyl acetate, 50:50 afforded the title compound as a yellow solid in 38% yield, 655 mg.

reactant | 2,2-dimethyl-N-pyridin-3-ylpropanamide | CC(C(=O)NC=1C=NC=CC1)(C)C | C10H14N2O
reactant | TMEDA | 14 mmol, 2.1 mL | CN(C)CCN(C)C | C6H16N2
reactant | lithium | 14 mmol, 1.6M, 8.8 mL | [Li] | Li
reactant | iodine | 14 mmol, 3.56 g | II | I2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | N-(4-Iodopyridin-3-yl)-2,2-dimethylpropanamide | 38% yield | IC1=C(C=NC=C1)NC(C(C)(C)C)=O | C10H13IN2O
